US07078405B2
N-[8-(2,4-Dichlorophenyl)-2-ethylimidazo[1,2-a]pyrazin-3-yl]-N-propylamine
tert-Butyl N-[8-(2,4-dichlorophenyl)-2-ethylimidazo[1,2-a]pyrazin-3-yl]-N-propylcarbamate was dissolved in ethyl acetate (1 mL), then a 4N hydrochloric acid-ethyl acetate solution (1.9 mL, 7.4 mmol) was added thereto at room temperature, and the mixture was stirred at room temperature for 20 hours. Under ice-cooling, a 5N aqueous sodium hydroxide solution was added thereto, which was extracted with ethyl acetate. The organic layers were combined, which was dried over anhydrous magnesium sulfate and evaporated. The resulting residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=3:4) to give the title compound (151 mg) as a yellow oil.

reactant | tert-Butyl N-[8-(2,4-dichlorophenyl)-2-ethylimidazo[1,2-a]pyrazin-3-yl]-N-propylcarbamate | ClC1=C(C=CC(=C1)Cl)C=1C=2N(C=CN1)C(=C(N2)CC)N(C(OC(C)(C)C)=O)CCC | C22H26Cl2N4O2
reactant | hydrochloric acid ethyl acetate | 7.4 mmol, 4N, 1.9 mL | Cl.C(C)(=O)OCC
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
product | N-[8-(2,4-Dichlorophenyl)-2-ethylimidazo[1,2-a]pyrazin-3-yl]-N-propylamine | 151 mg | ClC1=C(C=CC(=C1)Cl)C=1C=2N(C=CN1)C(=C(N2)CC)NCCC | C17H18Cl2N4
